US05364871
A suspension of 4-[2-(diaminomethyleneamino)thiazol-4-yl]thiazole-2-carboxamide (1.0 g) in 4N-hydrogenchloride/dioxane (1.0 ml) and methanol (10 ml) was stirred for 1 hour at room temperature. The resulting precipitate was collected by filtration. Recrystallization from water afforded 4-[2-(diaminomethyleneamino)thiazol-4-yl)thiazole-2-carboxamide hydrochloride (850 mg).

reactant | 4-[2-(diaminomethyleneamino)thiazol-4-yl]thiazole-2-carboxamide | 1.0 g | NC(N)=NC=1SC=C(N1)C=1N=C(SC1)C(=O)N | C8H8N6OS2
reactant | hydrogenchloride dioxane | 1.0 ml | Cl.O1CCOCC1
solvent | methanol | 10 ml | CO | CH4O
product | 4-[2-(diaminomethyleneamino)thiazol-4-yl)thiazole-2-carboxamide hydrochloride | 850 mg | Cl.NC(N)=NC=1SC=C(N1)C=1N=C(SC1)C(=O)N | InChI=1S/C8H8N6OS2.ClH/c9-5(15)6-12-3(1-16-6)4-2-17-8(13-4)14-7(10)11;/h1-2H,(H2,9,15)(H4,10,11,13,14);1H
